US06127386
179b. 5-Allyl-6-chloro-3-(1-methyl-2-(S)-azetidinylmethoxy)pyridine hydrochloride
To a solution of 5-allyl-6-chloro-3-(1-methyl-2-(S)-azetidinylmethoxy)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 109-111° C.; 1H NMR (D2O) δ 2.58-2.70 (m, 2H), 2.99 (s, 3H), 3.52 (d, 2H, J=6.5 Hz), 4.00 (m, 1H), 4.28 (m, 1H), 4.40-4.54 (m, 2H), 4.84 (m, 1H), 5.10-5.22 (m, 2H), 6.05 (m, 1H), 7.50 (d, 1H, J=3.0 Hz), 8.04 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 254 (M+H)+. Anal. Calcd for C13H17ClN2O.HCl: C, 53.99; H, 6.27; N, 9.69. Found: C, 53.73; H, 6.01; N, 9.57. [α]25D -22.55 (c 2.2, MeOH).

reactant | 5-allyl-6-chloro-3-(1-methyl-2-(S)-azetidinylmethoxy)pyridine | C(C=C)C=1C=C(C=NC1Cl)OC[C@H]1N(CC1)C | C13H17ClN2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 5-Allyl-6-chloro-3-(1-methyl-2-(S)-azetidinylmethoxy)pyridine hydrochloride | Cl.C(C=C)C=1C=C(C=NC1Cl)OC[C@H]1N(CC1)C | InChI=1S/C13H17ClN2O.ClH/c1-3-4-10-7-12(8-15-13(10)14)17-9-11-5-6-16(11)2;/h3,7-8,11H,1,4-6,9H2,2H3;1H/t11-;/m0./s1
